US08303944B2
108 mL of (1,3-dioxan-2-ylethyl) magnesium bromide (0.5M) was added to a solution of 4-bromobenzaldehyde (10 g, 54.0 mmol) in THF (350 mL) at −78° C. under nitrogen and stirred for 2 hours before warming to 0° C. The reaction was quenched with sat NH4Cl soln, diluted with diethyl ether and washed with brine. The crude product was charged (CH2Cl2) to a 40M Biotage silica gel cartridge; Gradient elution 15-100% B over 750 mL (A=Hexanes; B=ethyl acetate) to give Example J1, 1-(4-bromophenyl)-3-(1,3-dioxan-2-yl)propan-1-ol (quantitative yield). 1H NMR (500 MHz, CDCl3) δ 7.44 (d, J=8.5 Hz, 2H), 7.22 (d, J=8.5 Hz, 2H), 4.70-4.66 (m, 1H), 4.57 (t, J=4.9 Hz, 1H), 4.12-4.19 (m, 2H), 3.76 (tt, J=11.9, 2.7 Hz, 2H), 2.87 (d, J=3.7 Hz, 1H), 2.12-2.03 (m, 1H), 1.86-1.87 (m, 2H), 1.74-1.68 (m, 2H), 1.36-1.32 (m, 1H). RT=1.8 minutes (condition 1); LRMS: No parent ion evident.

reactant | (1,3-dioxan-2-ylethyl) magnesium bromide | 0.5M, 108 mL | O1C(OCCC1)CC[Mg]Br
reactant | 4-bromobenzaldehyde | 54.0 mmol, 10 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 350 mL | C1CCOC1 | C4H8O
product | 1-(4-bromophenyl)-3-(1,3-dioxan-2-yl)propan-1-ol | quantitative yield | BrC1=CC=C(C=C1)C(CCC1OCCCO1)O | C13H17BrO3
